US05589478
To 1,3-propanediol (7 ml) is added sodium hydride (60% dispersion-type, 312 mg), and thereto is added 4-tert-butyl-N-{6-chloro-5-(3-methoxyphenoxy)pyrimidin-4-yl}benzenesulfonamide (707 mg). The reaction mixture is reacted at 90° C. for two hours, and then reacted at 130° C. for one hour. The reaction solution is acidified with 10% hydrochloric acid, and extracted with ethyl acetate, and the ethyl acetate layer is washed, dried, and concentrated to dryness under reduced pressure. The residue is purified by silica gel column chromatography (solvent; chloroform/ethyl acetate=10:1), and crystallized from ethyl acetate/diisopropyl ether to give 4-tert-butyl-N-{6-(3-hydroxypropyloxy)-5-(3-methoxyphenoxy)pyrimidin-4-yl}benzenesulfonamide (315 mg) as crystals.

reactant | 1,3-propanediol | 7 ml | C(CCO)O | C3H8O2
reactant | sodium hydride | 312 mg | [H-].[Na+]
reactant | 4-tert-butyl-N-{6-chloro-5-(3-methoxyphenoxy)pyrimidin-4-yl}benzenesulfonamide | 707 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1OC1=CC(=CC=C1)OC)Cl | C21H22ClN3O4S
reactant | hydrochloric acid | Cl | ClH
product | 4-tert-butyl-N-{6-(3-hydroxypropyloxy)-5-(3-methoxyphenoxy)pyrimidin-4-yl}benzenesulfonamide | 315 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1OC1=CC(=CC=C1)OC)OCCCO | C24H29N3O6S
